US07897601B2
Sodium hydride (4.88 g of a 60% dispersion in mineral oil, 1.5 eq, 0.122 mol) was suspended in THF (442 mL). To this suspension was added a solution of diethoxyphosphorylactic acid ethyl ester (27.5 g, 0.122 mol, 1.5 eq) in THF (10 mL), dropwise. After 10 minutes a solution of 3-(2,4-dichlorophenyl)-2-methylpropenal (17.56 g, 0.082 mol) in THF (50 mL) was added, dropwise. After stirring for 4 hours the mixture was added to NH4Cl(sat) and extracted with EtOAc. The combined organic extracts were dried (MgSO4), concentrated under reduced pressure to give a residue that was purified by silica gel chromatography (0-2.5-5% EtOAc in hexanes) to give 20.9 g of 5-(2,4-dichlorophenyl)-4-methylpenta-2,4-dienoic acid ethyl ester.

reactant | Sodium hydride | [H-].[Na+]
reactant | diethoxyphosphorylactic acid ethyl ester | 0.122 mol, 27.5 g, 1.5 eq | C(C)OC(CP(=O)(OCC)OCC)=O | C8H17O5P
reactant | 3-(2,4-dichlorophenyl)-2-methylpropenal | 0.082 mol, 17.56 g | ClC1=C(C=CC(=C1)Cl)C=C(C=O)C | C10H8Cl2O
solvent | THF | 442 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-(2,4-dichlorophenyl)-4-methylpenta-2,4-dienoic acid ethyl ester | 20.9 g | C(C)OC(C=CC(=CC1=C(C=C(C=C1)Cl)Cl)C)=O | C14H14Cl2O2
